data/mechanism_extracts/NatCommun/10.1038_s41467-023-42566-y.json
{"doi": "10.1038_s41467-023-42566-y", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electrochemical hydroalkylation of electron-poor olefins with unactivated alkyl iodides via anodic generation of alpha-aminoalkyl radicals that perform halogen-atom transfer (e-XAT)", "mechanism_family": ["radical_polar_crossover", "radical_anodic", "mediator_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of Et3N to aminium radical cation followed by alpha-deprotonation generates an alpha-aminoalkyl radical that acts as the XAT mediator; the alkyl radical adds to the Michael acceptor and the resulting alpha-carbonyl C-radical is then reduced at the cathode to a carbanion which is protonated by H2O", "key_intermediates": [{"name": "alpha-aminoalkyl radical from Et3N (Et2N-CH(.)-CH3)", "smiles": "CC(.)N(CC)CC", "role": "reactive"}, {"name": "alpha-iodoamine / iminium iodide pair from XAT", "smiles": null, "role": "transient"}, {"name": "alkyl radical (primary, secondary, or tertiary) from alkyl iodide", "smiles": null, "role": "reactive"}, {"name": "alpha-EWG carbon-centered radical after Giese addition", "smiles": null, "role": "reactive"}, {"name": "alpha-EWG carbanion after cathodic reduction", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes Et3N to its aminium radical cation, which loses an alpha-H to give an alpha-aminoalkyl radical; this radical abstracts I from the alkyl iodide (XAT) producing an alkyl radical that adds to the electron-poor olefin, and the resulting alpha-EWG radical is reduced at the Pt cathode to a carbanion that is protonated by H2O.", "rate_determining_step": "Halogen-atom transfer from alkyl iodide to the alpha-aminoalkyl radical (driven by exothermic formation of iminium iodide)", "probe_reagents": [{"name": "cyclopropylmethyl iodide radical clock (substrate 88)", "smiles": "ICC1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 89 obtained in 36% yield with only 12% unrearranged 90, confirming a free alkyl radical intermediate"}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "H/D_labeling", "observation": "Deuterated product 91 in 89% yield with >95% D incorporation at the alpha-EWG position, indicating cathodic reduction to a carbanion that is protonated by water"}, {"name": "tethered alkene radical probe (substrate 85)", "smiles": null, "purpose": "radical_clock", "observation": "5-exo cyclization to pyrrolidine 86 (with intermolecular Giese products 87a/87b when external acceptor added), supporting intramolecular radical addition pathway"}, {"name": "amine screen (Et3N, iPr2NEt, DABCO, TMP, iPr2NH, Bn3N, Ph2NPMP, 2,2,6,6-tetramethylpiperidine)", "smiles": null, "purpose": "redox_probe", "observation": "Only alkylamines with secondary alpha-H and suitable Eox (~+0.67 to +0.77 V) gave high yields; amines lacking alpha-H gave no reaction, supporting alpha-aminoalkyl radical as the XAT agent"}, {"name": "cyclic voltammetry of Et3N vs alkyl iodides/acrylates", "smiles": null, "purpose": "redox_probe", "observation": "Et3N oxidizes at much lower potential than reduction of alkyl iodides or Michael acceptors, ruling out direct SET to substrate and supporting mediated XAT"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "kinetic_order"], "evidence_strength": "strong", "notes": "Authors cite prior DFT (ref 37) showing the XAT step proceeds via a polarized transition state with charge-transfer character; no new DFT performed here. Method avoids sacrificial anodes by replacing cathodic reduction of R-I with anodic-mediator XAT, with cathode reserved for the radical-polar crossover step (reduction of the Giese adduct radical to a carbanion)."}
